US04131736
5. PREPARATION OF METHACRYLOXYISOPROPYL SULFOPROPIONATE
To a reaction vessel fitted with an air-bleed tube, thermometer, stirrer, and condenser there are charged sulfopropionic anhydride (29.1 g.), 2-hydroxypropyl methacrylate (29.1 g.), the monomethyl ether of hydroquinone (0.1 g.) and toluene (60 g.). The mixture is stirred, sparged with dry air as in (1) above and heated. After 0.5 hour at 60° C. a solution containing 29% by weight of methacryloxyisopropyl sulfopropionate is obtained.

reactant | sulfopropionic anhydride | 29.1 g | S(=O)(=O)(O)C(C(=O)OC(C(C)S(=O)(=O)O)=O)C | C6H10O9S2
reactant | 2-hydroxypropyl methacrylate | 29.1 g | C(C(=C)C)(=O)OCC(C)O | C7H12O3
reactant | monomethyl ether | COC | C2H6O
reactant | hydroquinone | 0.1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | toluene | 60 g | C1(=CC=CC=C1)C | C7H8
product | METHACRYLOXYISOPROPYL SULFOPROPIONATE | S(=O)(=O)(O)C(C(=O)OC(C)(C)OC(C(=C)C)=O)C | C10H16O7S
